* E:\Outpost Vault\Outpost Door\Outpost Quick Access\Projects\1) Major Projects\Work for SOAR\PMB REV 2\Code\SOAR_PMB_Rev_2\SPICE SIMS\Switching Logic.asc
* Generated by LTspice 24.1.4 for Windows.
V§UMBILICAL N022 0 PULSE(0 48 100ms 100m 20m 200m 5 1)
V§BATT_1 N021 0 PULSE(0 16.8 300ms 100m 100m 500m 5 1)
V§BATT_2 N019 0 PULSE(16.8 16.8 0 20u 0.1 10 11 1)
R1 UMBILICAL N018 10000
R2 N018 0 1750
C2 Umbilical_comparator 0 100n
A7 BATT_2_comparator LOGIC_POWER 0 0 0 0 N034 0 SCHMITT Trise=1u, Vhigh = 5, Vt = 0.1, Vh = 0.05
A8 BATT_1_comparator LOGIC_POWER 0 0 0 N033 N032 0 SCHMITT Trise=1u, Vhigh = 5, Vt = 0.1, Vh = 0.05
A9 Umbilical_comparator LOGIC_POWER 0 0 0 N030 Umbilical_gate_control_logic_output 0 SCHMITT Trise=20u, Vhigh = 5, Vt = 0.05, Vh = 0.075, Td = 5u
R8 N018 Umbilical_comparator 1000
B§UMBILICAL_Noise UMBILICAL N022 V=white(2e4*time) / 13
BATT_1_Noise BATT_1 N021 V=white(2e4*time) / 13
BATT_2_Noise BATT_2 N019 V=white(2e4*time) / 13
R3 BATT_1 N023 10000
R4 N023 0 5400
R6 BATT_2 N025 10000
R12 N025 0 5400
C7 N027 0 1n
C8 LOGIC_POWER 0 4.7µ Rser=1.5m
X§U1 LDO_POWER LOGIC_POWER LDO_POWER N027 LOGIC_POWER 0 ADM7170-5.0
R7 N024 UMBILICAL_GATE 220
D8 N026 N024 DFLZ33
Q2 N028 N029 0 0 NPN
R15 Umbilical_gate_control_signal N029 1000
R22 N029 0 10000
R11 N024 UMBILICAL 10000
C5 UMBILICAL_GATE 0 10n
A1 N030 0 0 0 N032 0 BATT_1_gate_control_logic_output 0 AND Vhigh = 5, Td = 33n
A2 N030 0 N033 0 N034 0 BATT_2_gate_control_signal_logic_output 0 AND Vhigh = 5, Td = 33n, Tfall = 30n
R9 N031 BATT_1_GATE 1000
Q1 N035 N036 0 0 NPN
R10 BATT_1_gate_control_signal N036 1000
R14 N036 0 10000
R23 N031 BATT_1 10000
C1 BATT_1_GATE 0 10n
R24 N037 BATT_2_GATE 220
Q3 N038 N039 0 0 NPN
R25 BATT_2_gate_control_signal N039 1000
R26 N039 0 10000
R27 N037 BATT_2 10000
C6 BATT_2_GATE 0 10n
R28 N031 N035 0.1
R29 N037 N038 0.1
R30 N026 N028 0.1
R31 UMBILICAL_GATE 0 10e4
C11 BATT_1_comparator 0 100n
R32 N023 BATT_1_comparator 1000
C12 BATT_2_comparator 0 100n
R33 N025 BATT_2_comparator 1000
D1 UMBILICAL LDO_POWER D
D2 BATT_1 LDO_POWER D
D4 BATT_2 LDO_POWER D
C3 BATT_1_gate_control_signal 0 10p
C4 Umbilical_gate_control_signal 0 10p
C13 BATT_2_gate_control_signal 0 10p
A4 N001 0 N005 0 N006 0 N002 0 AND Vhigh = 5, Td = 33n
A5 N003 0 Umbilical_gate_control_signal 0 N010 0 N008 0 AND Vhigh = 5, Td = 33n
A12 UMBILICAL BUCK_RAIL 0 0 0 0 N010 0 SCHMITT Trise=1u, Vhigh = 5, Vt = 0.05, Vh = 0.075, Td = 10n
D3 N008 N009 D
A13 N003 0 Umbilical_gate_control_signal 0 N012 0 N011 0 AND Vhigh = 5, Td = 33n
A14 BATT_1 BUCK_RAIL 0 0 0 0 N012 0 SCHMITT Trise=1u, Vhigh = 5, Vt = 0.05, Vh = 0.075, Td = 10n
D10 N011 N009 D
A15 N003 0 Umbilical_gate_control_signal 0 N014 0 N013 0 AND Vhigh = 5, Td = 33n
A16 BATT_2 BUCK_RAIL 0 0 0 0 N014 0 SCHMITT Trise=1u, Vhigh = 5, Vt = 0.05, Vh = 0.075, Td = 10n
D12 N013 N009 D
C14 N004 0 9n
C15 N007 0 3n
R13 N009 N007 250
R34 N004 gate_drive_switch_signal 250
R35 gate_drive_switch_signal 0 1000
M5 gate_drive_switch_signal N007 N003 N003 AO6407
R5 N009 0 10000
M7 BATT_2_gate_control_signal N004 BATT_2_gate_control_signal_logic_output BATT_2_gate_control_signal_logic_output Si1555DL_P
A3 Umbilical_gate_control_signal 0 0 0 0 N001 0 0 BUF Vhigh = 5, Td = 33n
A6 BATT_1_gate_control_signal 0 0 0 0 N005 0 0 BUF Vhigh = 5, Td = 33n
A17 BATT_2_gate_control_signal 0 0 0 0 N006 0 0 BUF Vhigh = 5, Td = 33n
M1 BATT_1_gate_control_signal N004 BATT_1_gate_control_logic_output BATT_1_gate_control_logic_output Si1555DL_P
M6 Umbilical_gate_control_signal N004 Umbilical_gate_control_logic_output Umbilical_gate_control_logic_output Si1555DL_P
A18 N002 RESET 0 0 0 0 N003 0 SRFLOP Vhigh = 5
C9 BUCK_RAIL 0 500µ
C10 RESET 0 100n
R16 N009 RESET 500
R17 N009 0 10000
M3 N020 BATT_2_GATE BATT_2 BATT_2 Si4427DY
R18 N016 N015 0.2
R19 N016 N017 0.2
R20 N016 N020 0.2
R21 BUCK_RAIL N016 50
R36 N016 0 75
R37 N020 0 10000
M2 N017 BATT_1_GATE BATT_1 BATT_1 Si4427DY
M4 N015 UMBILICAL_GATE UMBILICAL UMBILICAL Si4427DY
.model D D
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 1
* Extra pull up resistors so the gate wont be floating if it is disconected somehow
* Diodes to get a gradual turn on (for delaying purposes)
* Need to switch all the output signals to not invert the signal
* Ask if this extra pull up resistor is nessary
* Extra cap so that negitive voltage spike when the npn turns on doesn't affect the gate voltage
* NPN needs to resist like upwards of 50V
* Extra pull down so when the umbilical is disconected, the gate wont be in a high impedance state
* common switch debouncing values
* ORing diodes or or gate, this needs to supply some current to turn on the transmission gate so idk?
* Voltage spike protection zener diode?
.lib ADM7170-5.0.sub
.backanno
.end
